US08222424B2
A solution of 0.997 g of 6-bromoindole in tetrahydrofuran (20 mL) is cooled to −50° C. and treated by slow addition of 8.79 mL of tert-butyllithium (1.5 M in pentane). After 2 h at −50° C. the reaction mixture is treated with 0.4 g of 4-fluoro-N-methoxy-N-methyl-3-sulfamoyl-benzamide in tetrahydrofuran (10 mL), stirred for an additional 3 h at −50° C. and quenched by addition of 2 mL of saturated aqueous ammonium chloride. The reaction mixture is taken up in ethyl acetate, washed with a saturated sodium chloride solution and dried (magnesium sulfate). After concentration in vacuo the residue is purified by silica gel chromatography (1:1 hexanes/ethyl acetate) to give 2-fluoro-5-(1H-indole-6-carbonyl)-benzenesulfonamide as an amorphous solid. MS (m/z): 317 (M−1); Rf 0.32 (1:1 hexanes/ethyl acetate).

reactant | 6-bromoindole | 0.997 g | BrC1=CC=C2C=CNC2=C1 | C8H6BrN
reactant | tert-butyllithium | 1.5 M, 8.79 mL | C(C)(C)(C)[Li]
reactant | 4-fluoro-N-methoxy-N-methyl-3-sulfamoyl-benzamide | 0.4 g | FC1=C(C=C(C(=O)N(C)OC)C=C1)S(N)(=O)=O | C9H11FN2O4S
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 2-fluoro-5-(1H-indole-6-carbonyl)-benzenesulfonamide | FC1=C(C=C(C=C1)C(=O)C1=CC=C2C=CNC2=C1)S(=O)(=O)N | C15H11FN2O3S
